US07420083B2
Synthesis of [4-(4-tert-Butyl-benzylideneaminooxymethyl]-phenyl}-acetic Acid
The title compound was prepared as a white solid (0.193 g, 41%) from 4-tert-butyl-benzaldehyde oxime and 4-bromomethyl-phenyl-acetic acid using a procedure similar to example 2. mp=93.3-96.2° C.; mass spectrum (−APCI, M−H) m/z 324. 1H NMR (400 MHz, DMSO-d6); δ 12.30 (bs, 1H), 8.23 (s, 1H), 7.52 (d, 2H), 7.42 (d, 2H), 7.33 (d, 2H), 7.24 (d, 2H), 5.10 (s, 2H), 3.55 (s, 2H), 1.25 (s, 9h). Elemental analysis: Calcd. for C20H23NO3: C, 73.82; H, 7.12; N, 4.30, Found: C, 73.15; H, 7.14; N, 4.01.

reactant | 4-tert-butyl-benzaldehyde oxime | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
reactant | 4-bromomethyl-phenyl-acetic acid | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
product | [4-(4-tert-Butyl-benzylideneaminooxymethyl]-phenyl}-acetic Acid | C(C)(C)(C)C1=CC=C(C=NOCC2=CC=C(C=C2)CC(=O)O)C=C1 | C20H23NO3
